US05122615
Preparation of 2-Bromo-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile
Hydrogen bromide gas is bubbled through a mixture of (3,4-dichlorophenacyl)malononitrile (10.0 g, 0.0395 mol) in ether (150 mL) and chloroform (100 mL) at a moderate rate, keeping the reaction mixture temperature below 35°-40° C. After ten minutes, TLC shows the reaction is complete by UV analysis. The reaction mixture is poured into an ice-water mixture, the layers are separated and the aqueous layer is extracted with ether. The combined organic layer and ether extracts are dried and concentrated in vacuo to give a brown solid. The brown solid is washed with methylene chloride and filtered to obtain the title compound as an off-white solid (3.0 g, 24%, mp >200° C.) which is identified by IR and NMR spectral analyses.

reactant | Hydrogen bromide | Br | BrH
reactant | (3,4-dichlorophenacyl)malononitrile | 0.0395 mol, 10.0 g | ClC=1C=C(C(CC(C#N)C#N)=O)C=CC1Cl | C11H6Cl2N2O
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | 3.0 g, 24% | BrC=1NC(=CC1C#N)C1=CC(=C(C=C1)Cl)Cl | C11H5BrCl2N2
